US07304081B2
(1R)-1′-({1-[4-(2H-Indazol-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (30 mg, 0.00007 mol), 1H-Indazole (10.3 mg, 0.0000871 mol) in toluene (1 mL, 0.01 mol) were added (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine (2.1 mg, 0.000014 mol), copper(I) iodide (1 mg, 0.000007 mol), and potassium phosphate (32.4 mg, 0.000152 mol) in a sealed vial. The mixture was microwaved at 150 Celsius for 60 minutes. Then the mixture was cooled down to r.t. and filtered. The filtrate was diluted with methanol, and the desired compound was obtained by revised phase prep-HPLC. MS (ESI): 451.1 (M+H+). The enantiomers were separated by chiral HPLC.

reactant | 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.00007 mol, 30 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C20H17BrN2O3
reactant | 1H-Indazole | 0.0000871 mol, 10.3 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | toluene | 0.01 mol, 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine | 0.000014 mol, 2.1 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 0.000152 mol, 32.4 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper(I) iodide | 0.000007 mol, 1 mg | [Cu]I
product | (1R)-1′-({1-[4-(2H-Indazol-2-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | N=1N(C=C2C=CC=CC12)C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C27H22N4O3
